US05436247
To a mixture of 2-amino-3',4'-dimethoxy-4,5-ethylenedioxybenzophenone (6.5 g), ethyl 4-chloroacetoacetate (3.7 g) and acetic acid (60 ml), concentrated sulfuric acid (0.3 ml) was added, followed by stirring at 100° C. for 3 hours. After the reaction mixture was concentrated under reduced pressure, the residue was poured over water and alkalinized with 2N NaOH and then extracted with chloroform. The chloroform layer was washed with water and dried (MgSO4), after which the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with chloroform-ethyl acetate (7:3, v/v) to yield 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-ethylenedioxyquinoline-3-carboxylic acid ethyl ester (5.5 g, 60%), which was then recrystallized from acetone to yield a colorless prismatic crystal having a melting point of 197° to 198° C.

reactant | 2-amino-3',4'-dimethoxy-4,5-ethylenedioxybenzophenone | 6.5 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C2C(=C1)OCCO2 | C17H17NO5
reactant | ethyl 4-chloroacetoacetate | 3.7 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-ethylenedioxyquinoline-3-carboxylic acid ethyl ester | 5.5 g, 60% | C(C)OC(=O)C=1C(=NC2=CC3=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OCCO3)CCl | C23H22ClNO6
